US07049313B2
(a) 1-Fluoro-4-hydroxy-thioxanthen-9-one (10)
Thiosalicylic acid (46.26 g, 0.3 mol) and 4-fluorophenol (56.05 g, 0.5 mol) were dissolved in conc. H2SO4 (750 ml) and the mixture was stirred under nitrogen for 24 hours. The reaction mixture was then poured onto ice (1.5 L) and the yellow precipitate was filtered and washed with water (300 ml). The precipitate was dried at 50° C. for 24 hours and was used without further purification (31.4 g, 42.5%). m/z (LC-MS, ESP): 247 (M++1).

reactant | Thiosalicylic acid | 0.3 mol, 46.26 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | 4-fluorophenol | 0.5 mol, 56.05 g | FC1=CC=C(C=C1)O | C6H5FO
solvent | H2SO4 | 750 ml | OS(=O)(=O)O | H2O4S
product | 1-Fluoro-4-hydroxy-thioxanthen-9-one | FC1=CC=C(C=2SC3=CC=CC=C3C(C12)=O)O | C13H7FO2S
